US06194461B1
1) N-(2,4-difluorobenzylidene)-t-butylamine
To a solution of 2,4-difluorobenzaldehyde (431.6 mg, 3.04 mmol) in toluene (5 ml) was added t-butylamine (0.63 ml, 6.00 mmol) and stirred under reflux using a Dean-Stark trap to remove water for 1 hour. Then t-butylamine (0.63 ml, 6.00 mmol) was added to the mixture and stirred for 5 hours. The solvent was evaporated to give the title compound.

reactant | 2,4-difluorobenzaldehyde | 3.04 mmol, 431.6 mg | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | t-butylamine | 6.00 mmol, 0.63 ml | C(C)(C)(C)N | C4H11N
reactant | t-butylamine | 6.00 mmol, 0.63 ml | C(C)(C)(C)N | C4H11N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-difluorobenzylidene)-t-butylamine | FC1=C(C=NC(C)(C)C)C=CC(=C1)F | C11H13F2N
